US04550105
Following the procedure of Reference Example 16B but using 0.385 g of (3S,4S)-4-acetoxy-3-amino-1-t-butyldimethylsilyl-2-oxoazetidine and 0.384 g of 2-bromo-2-phenylacetic acid, there is obtained 0.40 g of (3S,4S)-4-acetoxy-3-(2-bromo-2-phenylacetamido)-1-t-butyldimethylsilyl-2-oxoazetidine.

reactant | (3S,4S)-4-acetoxy-3-amino-1-t-butyldimethylsilyl-2-oxoazetidine | 0.385 g | C(C)(=O)O[C@H]1[C@@H](C(N1[Si](C)(C)C(C)(C)C)=O)N | C11H22N2O3Si
reactant | 2-bromo-2-phenylacetic acid | 0.384 g | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
product | (3S,4S)-4-acetoxy-3-(2-bromo-2-phenylacetamido)-1-t-butyldimethylsilyl-2-oxoazetidine | 0.40 g | C(C)(=O)O[C@H]1[C@@H](C(N1[Si](C)(C)C(C)(C)C)=O)NC(C(C1=CC=CC=C1)Br)=O | C19H27BrN2O4Si
